US06677352B1
A solution of LTMP [freshly prepared at 0° C. from tetramethylpiperidine (785.4 mg, 5.6 mmol), TMEDA (651 mg, 5.6 mmol) and n-BuLi (3.5 mL, 5.6 mmol)] in THF (10 mL) was added to a cooled (−40° C.) stirred solution of 2-anilino-6-fluoro-7-methoxy-1-phenyl-1,8-naphthyridin-4(1H)-one (507 mg, 104 mmol) in THF (20 mL). The reaction mixture was warmed to room temperature. After 1 h, the mixture was cooled to −30° C. and 1,2-dibromotetrachloroethane (457 mg, 1.4 mmol) was added. After 30 min, water (50 mL) was added slowly, and then the reaction was warmed to room temperature and extracted with EtOAc. The combined organic extracts were washed with brine, dried over Na2SO4, and concentrated in vacuo. Silica gel flash chromatography of the residue using EtOAc afforded 2-anilino-5-bromo-6-fluoro-7-methoxy-1-phenyl-1,8-naphthyridin-4(1H)-one (101 mg, 16%) as a light yellow solid: LCMS RT: 2.75 min, MH+: 440.3.

reactant | LTMP | [Li]N1C(CCCC1(C)C)(C)C
reactant | tetramethylpiperidine | 5.6 mmol, 785.4 mg | CC1C(N(CCC1)C)(C)C | C9H19N
reactant | TMEDA | 5.6 mmol, 651 mg | CN(C)CCN(C)C | C6H16N2
reactant | n-BuLi | 5.6 mmol, 3.5 mL | [Li]CCCC
reactant | 2-anilino-6-fluoro-7-methoxy-1-phenyl-1,8-naphthyridin-4(1H)-one | 104 mmol, 507 mg | N(C1=CC=CC=C1)C=1N(C2=NC(=C(C=C2C(C1)=O)F)OC)C1=CC=CC=C1 | C21H16FN3O2
reactant | 1,2-dibromotetrachloroethane | 1.4 mmol, 457 mg | BrC(C(Br)(Cl)Cl)(Cl)Cl | C2Br2Cl4
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | water | 50 mL | O | H2O
product | 2-anilino-5-bromo-6-fluoro-7-methoxy-1-phenyl-1,8-naphthyridin-4(1H)-one | 101 mg, 16% | N(C1=CC=CC=C1)C=1N(C2=NC(=C(C(=C2C(C1)=O)Br)F)OC)C1=CC=CC=C1 | C21H15BrFN3O2
